US03968216
A solution of 1-benzyl-2-(2-carbethoxyethyl)imidazole (5.2 g) in dry ether (150 ml) is added, dropwise, to a stirred suspension of aluminum lithium hydride (1.0 g) in dry ether (150 ml) at gentle reflux. The suspension is subsequently heated under reflux for 2 hours, and then cooled during the successive addition of water (1 ml), 15% sodium hydroxide (1 ml) and water (3 ml). After heating under reflux for 0.5 hour and filtration, the insoluble solid is extracted with hot methanol (3 × 100 ml). The combined organic extracts are concentrated under reduced pressure and the residue dissolved in 2N hydrochloric acid. Following extraction with chloroform, the solution is basified with solid potassium carbonate. Chloroform extracts of the basic solution are dried over sodium sulphate and concentrated under reduced pressure, affording 1-benzyl-2-(3-hydroxypropyl) imidazole as a colorless viscous liquid (4.6 g). The carbinol (4.4 g) is dissolved in benzene (40 ml) and added to thionyl chloride (20 ml) at reflux temperature. After complete addition, water (four drops) is added and the mixture is heated under reflux for 0.5 hour. Concentration followed by the addition of cyclohexane yields a yellow solid. Recrystallization from ethanol-ether yields 1-benzyl-2-(3-chloropropyl)imidazole hydrochloride, m.p. 162°-164°C.

reactant | 1-benzyl-2-(2-carbethoxyethyl)imidazole | 5.2 g | C(C1=CC=CC=C1)N1C(=NC=C1)CCC(=O)OCC | C15H18N2O2
reactant | aluminum lithium hydride | 1.0 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1-benzyl-2-(3-hydroxypropyl) imidazole | 4.6 g | C(C1=CC=CC=C1)N1C(=NC=C1)CCCO | C13H16N2O
